US07138397B2
By treating trans-4-(benzyloxycarbonylamino)cyclohexanecarboxylic acid and 2-aminophenol in the same manner as in Reference Example 8-40, trans-4-benzyloxycarbonylamino-N-(2-hydroxyphenyl)cyclohexanecarboxamide was obtained.

reactant | trans-4-(benzyloxycarbonylamino)cyclohexanecarboxylic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CC[C@H](CC1)C(=O)O | C15H19NO4
reactant | 2-aminophenol | NC1=C(C=CC=C1)O | C6H7NO
product | trans-4-benzyloxycarbonylamino-N-(2-hydroxyphenyl)cyclohexanecarboxamide | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CC[C@H](CC1)C(=O)NC1=C(C=CC=C1)O | C21H24N2O4
